US06943169B2
A solution of 0.6 g (1.38 mmole) 4-[3-(2-oxo-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester in 3 mL trifluoroacetic acid was concentrated under reduced pressure. The residue was partitioned between 10 mL saturated sodium carbonate containing 1 mL 5% sodium hydroxide and 35 mL ethyl acetate. The organic phase was dried (MgSO4) and concentrated under reduced pressure. The residue was converted to the maleate salt and recrystallized from methanol/ethyl acetate to provide 1-(3-Piperazin-1-yl-benzyl)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one as a maleate salt, 0.346 g, m.p. 149-150°.

reactant | 4-[3-(2-oxo-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.38 mmole, 0.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)CN1C2=C(CCCC1=O)C=CC=C2 | C26H33N3O3
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(3-Piperazin-1-yl-benzyl)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one | N1(CCNCC1)C=1C=C(CN2C3=C(CCCC2=O)C=CC=C3)C=CC1 | C21H25N3O
